Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Biaxin / clarithromycin / Fosamax / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug)
 
Attending: ___
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ yo F with PMHx CHF with EF ___, Afib on warfarin, AVR and 
MVR ___ rheumatic heart disease, CKD, here with several days of 
worsening DOE, SOB, PND, Orthopnea and ___ edema.  
Pt with hospitalization ___ for CHF, PNA and then ___ 
admission ___ for pubic rami fractures after which she 
went to rehab. Was discharged from rehab ___ and is now 
reporting DOE, orthopnea (up to 3 pillows last evening) and 
increased leg edema. Reports baseline weight around 130. Denies 
increase in salty foods. Does say she has been drinking a lot of 
fluids. Patient took torsemide 10 mg (2 tabs) instead of one 
this morning. Does have dry cough but no fevers or chills. No 
chest pain/pressure. Denies pain in legs or history of clots.  
In the ED, initial vitals were 98.7 90 119/71 18 99%  
Labs significant for Cr of 1.4 (down from baseline), INR of 3.7, 
BNP of ___, trop negative x 1.  
ECG reportedly showed paced rhythm.  
CXR showed mild pulmonary edema and L pleural effusion  
She was given 40 mg IV lasix.  
Vitals prior to transfer 98. 97 116/68 18 100% RA  
On arrival to the floor, patient says that she has already gone 
to the bathroom twice since receiving the lasix but urine output 
was not recorded. Has no further complaints.  
 
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies chest pain or 
tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No dysuria. Denies arthralgias 
or myalgias. Ten point review of systems is otherwise negative.  

 
Past Medical History:
1. Type 2 diabetes.  
2. Atrial fibrillation, on Coumadin - s/p AV nodal ablation and 
pacemaker placement  
3. Systolic heart failure with ejection fraction 25% 
4. Status post AVR and MVR for rheumatic heart disease.  
5. Status post colostomy for diverticulosis/diverticulitis.  
6. Emphysema  
7. Chronic Kidney Disease- Baseline creatinine 1.7 
 
Social History:
___
Family History:
Significant for a brother who had TB. Her father also had lung 
cancer. She reports that many family members on her mother's 
side had heart disease. 
 
Physical Exam:
ADMISSION EXAM:
================
VS: 97.8 112/68 82 24 94% 2L  
General: NAD, comfortable, pleasant  
HEENT: NCAT, PERRL, EOMI  
Neck: supple, elevated JVP to 10 cm  
CV: regular rhythm, ___ systolic murmur at left sternal border  
Lungs: bibasilar crackles. no wheezing appreciated  
Abdomen: soft, NT/ND, BS+  
Ext: WWP, 2+ pitting edema bilaterally, 2+ distal pulses 
bilaterally  
Neuro: EOMI. tongue midline. moving all extremities grossly

DISCHARGE EXAM:
================
VS: 97.8 100s-120s/70s-80s ___ 22 100% 3L  wt 50.1kg 
I/O:  ___
Tele: V-paced around 90
General: NAD, comfortable, pleasant  
Neck: supple, elevated JVP 7 cm.  
CV: regular rhythm, no murmurs. +S3  
Lungs: bibasilar crackles. no wheezing appreciated  
Abdomen: soft, NT/ND, BS+  
Ext: WWP, no edema, 2+ distal pulses bilaterally  
 
Pertinent Results:
ADMISSION LABS:
===============
___ 05:30PM BLOOD WBC-8.8 RBC-4.44 Hgb-10.9* Hct-39.2# 
MCV-88 MCH-24.6* MCHC-27.9* RDW-23.9* Plt ___
___ 05:30PM BLOOD Neuts-85.3* Lymphs-6.5* Monos-5.0 Eos-2.1 
Baso-1.1
___ 05:30PM BLOOD ___ PTT-49.5* ___
___ 05:30PM BLOOD Glucose-92 UreaN-32* Creat-1.4* Na-145 
K-4.4 Cl-108 HCO3-24 AnGap-17
___ 05:30PM BLOOD cTropnT-<0.01 ___
___ 06:36AM BLOOD cTropnT-<0.01
___ 06:36AM BLOOD Calcium-9.5 Phos-3.2 Mg-2.0
___ 06:36AM BLOOD Digoxin-0.3*

DISCHARGE LABS:
===============
___ 07:10AM BLOOD WBC-10.2 RBC-4.44 Hgb-11.5* Hct-39.7 
MCV-90 MCH-25.9* MCHC-28.9* RDW-23.5* Plt ___
___ 11:05AM BLOOD ___
___ 07:25AM BLOOD Glucose-104* UreaN-45* Creat-2.0* Na-137 
K-4.2 Cl-95* HCO3-30 AnGap-16
___ 07:25AM BLOOD Mg-2.4

STUDIES:
===============
___ TTE: 
IMPRESSION: Well seated, normal functioning mitral valve 
bioprosthesis. Left ventricular cavity dilation with severe 
global hypokinesis and visual dyssnchrony. Severe pulmonary 
artery hypertension. Moderate tricuspid regurgitation. 

Compared with the prior study (images reviewed) of ___, 
left ventricular systolic function is minimally improved.
 
Brief Hospital Course:
___ yo F with PMHx CHF with EF ___, Afib on warfarin, AVR and 
MVR ___ rheumatic heart disease, CKD, here with several days of 
worsening DOE, SOB, PND, Orthopnea and ___ edema consistent with 
CHF exacerbation.  

# acute on chronic systolic CHF exacerbation - She was diuresed 
w/ 40 iv lasix bid to a dry weight of 50 kg, and then placed on 
po torsemide 20mg. Continued beta-blocker, spironolactone, 
digoxin. Consider initiating ACEi as outpatient once ___ 
resolves.    

# atrial fibrillation - s/p AV nodal ablation and pacemaker 
placement. INR supratherapeutic on admission to 3.7, on warfarin 
4mg daily. Her warfarin dose was decreased to 3mg daily. 
Continued metoprolol XL 25 and dig 0.125 qod.

# UTI - urine culture grew >100K pan-sensitive E. coli that was 
treated with 3 days of Bactrim. patient asymptomatic without 
leukocytosis and fever.   

Transitional Issues:
- Decreased warfarin from 4mg to 3mg daily.
- Increased torsemide from 10 to 20mg daily.
- Consider placement of biventricular pacemaker in the future.
- Consider initiating ACEi when renal function at baseline. 
- CODE: DNR/DNI (confirmed)  
- EMERGENCY CONTACT: ___ (husband) ___, ___ 
(daughter) ___.  
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Metoprolol Succinate XL 50 mg PO DAILY 
2. Digoxin 0.125 mg PO EVERY OTHER DAY 
3. GlipiZIDE 5 mg PO DAILY 
4. Spironolactone 12.5 mg PO EVERY OTHER DAY 
5. Warfarin 4 mg PO DAILY16 
6. Acetaminophen 650 mg PO Q8H:PRN pain 
7. Ferrous Sulfate 325 mg PO BID 
8. Aspirin 81 mg PO DAILY 
9. Senna 2 TAB PO DAILY 
10. Docusate Sodium 100 mg PO BID 
11. Allopurinol ___ mg PO DAILY 
12. Torsemide 10 mg PO DAILY 
13. Tiotropium Bromide 1 CAP IH DAILY 
14. Omeprazole 20 mg PO DAILY 
15. Fluticasone Propionate 110mcg 2 PUFF IH BID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H:PRN pain 
2. Allopurinol ___ mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Digoxin 0.125 mg PO EVERY OTHER DAY 
5. Docusate Sodium 100 mg PO BID 
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet extended release 24 
hr(s) by mouth daily Disp #*30 Tablet Refills:*0
8. Omeprazole 20 mg PO DAILY 
9. Senna 2 TAB PO DAILY 
10. Spironolactone 12.5 mg PO EVERY OTHER DAY 
11. Tiotropium Bromide 1 CAP IH DAILY 
12. Torsemide 20 mg PO DAILY 
RX *torsemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
13. Warfarin 3 mg PO DAILY16 
RX *warfarin 3 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
14. Ferrous Sulfate 325 mg PO BID 
15. GlipiZIDE 5 mg PO DAILY 
16. Outpatient Lab Work
Please draw INR on ___ and fax results attn: ___, 
NP to ___ Program at 
___.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Systolic congestive heart failure exacerbation, Urinary 
tract infection
Secondary: Atrial fibrillation, Type II diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It has been a pleasure taking care of you in the hospital. You 
were admitted for shortness of breath, found to be due to a 
heart failure exacerbation. This may have been caused by too 
much salt in your diet or not taking the correct dose of your 
diuretic. You were treated with diuretics to a dry weight of 50 
kilograms. You were also treated for a urinary tract infection. 
You should continue to take your medications as prescribed and 
adhere to the low salt diet. You should follow up with your 
cardiologist as below.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___